US08614209B2
To a stirring solution of ethylenediamine (1.2 g, 20.0 mmol) in IMS (10 mL) was added a solution of phenylglyoxal hydrate (3.0 g, 20.0 mmol) in IMS (20 mL) dropwise. The resultant solution was stirred at room temperature for 3 hours and then sodium borohydride was added and the reaction mixture stirred over the weekend. Water (25 mL) was added and stirring continued for 15 minutes then the ethanol was removed by evaporation. A further amount of water (25 mL) was added and the solution was extracted with DCM (×3) then the combined organics were washed with brine, dried and the solvent evaporated. The material was purified by column chromatography using a silica II cartridge, eluting with 0-20% ammonia in methanol to afford 2-phenyl-piperazine as a pale yellow-orange solid (1.9 g). LCMS m/z 163.36 [M+H]+ R.T.=0.34 min (Analytical Method 6).

reactant | ethylenediamine | 20.0 mmol, 1.2 g | C(CN)N | C2H8N2
reactant | phenylglyoxal hydrate | 20.0 mmol, 3.0 g | O.C1(=CC=CC=C1)C(=O)C=O
reactant | sodium borohydride | [BH4-].[Na+]
solvent | Water | 25 mL | O | H2O
product | 2-phenyl-piperazine | 1.9 g | C1(=CC=CC=C1)C1NCCNC1 | C10H14N2
